* c:\users\pmuru\esim-workspace\subtractor\subtractor.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
xsc14 net-_sc13-pad3_ net-_sc13-pad3_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 W=1 L=1
xsc13 net-_sc11-pad3_ net-_sc11-pad3_ net-_sc13-pad3_ net-_sc13-pad3_ sky130_fd_pr__nfet_01v8 W=1 L=1
xsc17 bow net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc2 net-_sc1-pad1_ input1 gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc12 bow input1 gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc18 net-_sc1-pad3_ input2 net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__nfet_01v8 W=1 L=1
xsc19 net-_sc10-pad2_ input2 gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc6 net-_sc5-pad3_ input2 gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc9 dif net-_sc1-pad1_ net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8 W=1 L=1
xsc5 dif input1 net-_sc5-pad3_ net-_sc5-pad3_ sky130_fd_pr__nfet_01v8 W=1 L=1
xsc1 net-_sc1-pad1_ input1 net-_sc1-pad3_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8 W=1 L=1
xsc11 net-_sc1-pad3_ net-_sc11-pad2_ net-_sc11-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 W=1 L=1
xsc3 net-_sc3-pad1_ input1 net-_sc1-pad3_ net-_sc3-pad1_ sky130_fd_pr__pfet_01v8 W=1 L=1
xsc4 dif net-_sc1-pad1_ net-_sc3-pad1_ dif sky130_fd_pr__pfet_01v8 W=1 L=1
xsc7 net-_sc3-pad1_ input2 net-_sc1-pad3_ net-_sc3-pad1_ sky130_fd_pr__pfet_01v8 W=1 L=1
xsc8 dif net-_sc10-pad2_ net-_sc3-pad1_ dif sky130_fd_pr__pfet_01v8 W=1 L=1
xsc15 net-_sc15-pad1_ input1 net-_sc1-pad3_ net-_sc15-pad1_ sky130_fd_pr__pfet_01v8 W=1 L=1
xsc16 bow net-_sc10-pad2_ net-_sc15-pad1_ bow sky130_fd_pr__pfet_01v8 W=1 L=1
v2  net-_sc11-pad2_ gnd pulse(0 0.2 0.1m 0.1m 0.1m 0.25 0.4)
v1  input1 gnd pulse(0 0.2 0.1m 0.1m 0.1m 0.1 0.2)
v4  input2 gnd pulse(0 0.2 0.1m 0.1m 0.1m 0.4 0.8)
v3 net-_sc11-pad3_ gnd  dc 5
* s c m o d e
* u1  dif plot_v1
* u2  bow plot_v1
* u4  input2 plot_v1
* u3  input1 plot_v1
.tran 0.1e-00 2e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dif)
plot v(bow)
plot v(input2)
plot v(input1)
.endc
.end
